US07799822B2
Prepared using general procedure 24. A solution of 4-bromo-N-(thiazol-2-yl)benzenesulfonamide (2.0 g, 6.3 mmol), tert-butyl azetidin-3-ylmethylcarbamate acetate (1.71 g, 6.93 mmol), sodium tert-butoxide (2.55 g, 26.5 mmol), biphenyl-2-yldi-tert-butylphosphine (224 mg, 0.76 mmol), and Pd2(dba)3 (172 mg, 0.19 mmol) in toluene (16 mL) was stirred at 75° C. for 16 h. The reaction mixture was poured into H2O, and the pH was adjusted to 6. The aqueous layer was extracted 4 times with CH2Cl2, and the organics were combined, washed with saturated aqueous NaCl solution, dried over MgSO4, and concentrated. Purification via silica gel chromatography using 50-90% EtOAc in hexanes gave tert-butyl-(1-(4-(N-thiazol-2-ylsulfamoyl)phenyl)azetidin-3-yl)methylcarbamate (0.58 g, 22%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=425.0; tR=2.59 min.

reactant | 4-bromo-N-(thiazol-2-yl)benzenesulfonamide | 6.3 mmol, 2.0 g | BrC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1 | C9H7BrN2O2S2
reactant | tert-butyl azetidin-3-ylmethylcarbamate acetate | 6.93 mmol, 1.71 g | C(C)(=O)O.N1CC(C1)CNC(OC(C)(C)C)=O
reactant | sodium tert-butoxide | 26.5 mmol, 2.55 g | CC(C)([O-])C.[Na+]
reactant | biphenyl-2-yldi-tert-butylphosphine | 0.76 mmol, 224 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.19 mmol, 172 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | H2O | O | H2O
product | tert-butyl-(1-(4-(N-thiazol-2-ylsulfamoyl)phenyl)azetidin-3-yl)methylcarbamate | 0.58 g, 22% | C(C)(C)(C)OC(NCC1CN(C1)C1=CC=C(C=C1)S(NC=1SC=CN1)(=O)=O)=O | C18H24N4O4S2
